US04877881
A solution of 3-methyl-5-pyrazoleacetic acid (5.0 g, 35.7 mmol) [see C. Ainsworth, J. Amer. Chem. Soc., 76, 3172 (1954)]in methanol (50 mL) is saturated with HCl gas. The mixture is warmed to reflux for 5 hours, after which the solution is concentrated. The solid residue is taken up in chloroform and washed with 0.5 N aqueous sodium bicarbonate, dried over MgSO4, and evaporated to afford 3-methyl-5-pyrazoleacetic acid methyl ester (3.9 g, 70%) sufficiently pure for further use.

reactant | 3-methyl-5-pyrazoleacetic acid | 35.7 mmol, 5.0 g | CC1=NNC(=C1)CC(=O)O | C6H8N2O2
reactant | HCl | Cl | ClH
reactant | methanol | 50 mL | CO | CH4O
product | 3-methyl-5-pyrazoleacetic acid methyl ester | 3.9 g, 70% | COC(CC1=CC(=NN1)C)=O | C7H10N2O2
